US06897224B2
4-(5-Bromo-2-methoxyphenyl)-4-methyl-2-oxopentanoic acid-ethyl ester in 30 ml of methanol and 12 ml of 1 M sodium hydroxide solution are stirred for 1 hour at room temperature, and the methanol is distilled off. It is mixed with water and hexane, the water phase is acidified with dilute hydrochloric acid while being cooled with ice, and it is mixed with ethyl acetate. The ethyl acetate phase is washed with water, dried (Na2SO4) and concentrated by evaporation. After crystallization from hexane, 1.8 g of 4-(5-bromo-2-methoxyphenyl)-4-methyl-2-oxopentanoic acid is obtained. Flash point: 80° C.

reactant | 4-(5-Bromo-2-methoxyphenyl)-4-methyl-2-oxopentanoic acid-ethyl ester | C(C)OC(C(CC(C)(C)C1=C(C=CC(=C1)Br)OC)=O)=O | C15H19BrO4
solvent | methanol | 30 ml | CO | CH4O
solvent | sodium hydroxide | 1 M, 12 ml | [OH-].[Na+]
product | 4-(5-bromo-2-methoxyphenyl)-4-methyl-2-oxopentanoic acid | 1.8 g | BrC=1C=CC(=C(C1)C(CC(C(=O)O)=O)(C)C)OC | C13H15BrO4
